US08975265B2
(1-{4-[7-(3-methyl-ureido)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester
A mixture of {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (100 mg, 0.193 mmol), Pd2 dba3 (3.6 mg, 0.004 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (7 mg, 0.012 mmol), cesium carbonate (75 mg, 0.231 mmol) and methylurea (74 mg, 1.0 mmol) in dioxane (2.3 mL) and DMF (0.8 mL) was degassed, placed under an argon atmosphere and heated at 110° C. for 5 hours. On cooling, the reaction was partitioned between aqueous sodium hydrogen carbonate solution and DCM and the organic phase washed with brine, dried and concentrated in vacuo to give the crude title compound (100 mg) which was used in the next step without further purification.

reactant | {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.193 mmol, 100 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | cesium carbonate | 0.231 mmol, 75 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methylurea | 1.0 mmol, 74 mg | CNC(=O)N | C2H6N2O
solvent | dioxane | 2.3 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
catalyst | Pd2 dba3 | 0.004 mmol, 3.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.012 mmol, 7 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | (1-{4-[7-(3-methyl-ureido)-3-phenyl-imidazo[1,2-a]pyridin-2-yl]-phenyl}-cyclobutyl)-carbamic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)NC(=O)NC)C1C1=CC=CC=C1)=O | C30H33N5O3
